Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain and weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with history of seizures now on Keppra who presents to 
ED with chest pain, back pain, neck pain, L arm weakness, and 
flushing.  
 Patient works on computers at ___ and was working on a 
computer ___ afternoon ___ when he suddenly felt weakness 
and pain of his L forearm and biceps, "hot" chest pain in the 
___ his chest, and neck and back/flank pain. He was unsure 
if this was recurrent seizure activity. He debated going to the 
hospital but walked around ___ and the symptoms dulled a 
bit. On ___ his main symptom was pain in L arm and neck so 
took one pill of oxycodone which helped the pain and allowed him 
to get some sleep. Then again at work today 1600 he experienced 
similar L arm, neck, back, chest pain with some L arm weakness. 
He endorses flushing but no diaphoresis. He says he was quite 
relaxed when this pain started, not exerting himself by any 
means. He does think his heart was pounding at first. Denies 
losing consciousness or SOB. No nausea, vomiting, diarrhea, 
constipation, dysuria. He googled symptoms of MI and then came 
to the hospital.  
 In the ED, initial vitals were: 98.6 97 141/86 18 98% RA  
 
 Labs notable for:  
 Trop negative  
 CK-MB 3  
 Normal chem-10 and CBC, LFTs  
 + urine opiates  
 Imaging notable for:  
 CT HEAD ___  
 No acute intracranial abnormality.  
 CXR ___  
 No acute intrathoracic process.  
 CTA HEAD/NECK ___  
 NECK: No acute intracranial process. Specifically no 
intracranial hemorrhage or acute large territorial infarction.  
 
 CTA head and neck: Internal carotid arteries, vertebral 
arteries and major branches are patent. No flow-limiting 
stenosis, aneurysm greater than 3 mm, or evidence of dissection. 
Fetal right PCA. Incidentally noted is a 0.5 cm right upper lobe 
pulmonary nodule (5:2). Limited evaluation of the aortic arch is 
unremarkable.  
 Patient was given:  
 ___ 18:38 IVF 1000 mL NS 500 mL ___  
 ___ 19:22 PO Aspirin 324 mg ___  
 Neurology was consulted and recommended:  
 Recs PND  
 Vitals prior to transfer: 98.0 71 137/94 18 96% RA  
 
 On the floor, he says that his pain is better but still has L 
arm weakness. Endorses L big toe "hot numbness." When asked if 
this episode is similar to prior seizures, he states that prior 
seizures involved the smell of urine and feeling of "someone 
unzipping me from the ___ my body."  
 
 ROS:  
 Complete ROS obtained and is otherwise negative  
 
Past Medical History:
 1. Chronic low back pain and sciatica  
 2. Possible history of complex partial seizures, although  
 unclear whether these were epileptiform or not. He has been off 
 
 antiepileptics for several years without recurrence.  
 3. Obstructive sleep apnea on CPAP.  
 4. Hyperlipidemia, on pravastatin.  
 5. Memory concerns, has been referred back to neuropsychology  
 recently.  
 6. BPH.  
 7. Carpal tunnel syndrome treated with splints for 2 months 
with  
 resolved symptoms.  
 8. History of ganglion cyst removed in ___.  
 9. History of possible depression on SSRI therapy. He has been  

 off for several years.  
 10. History of asymmetric hearing loss on the left seen on ___ 
 
 audiometry.  
 11. History of left ankle fracture status post ORIF in ___.  
 12. History of head injury in ___.  

 
Social History:
___
Family History:
 Identitical twin brother has had 3 MI's.  
 
Physical Exam:
ADMISSION EXAM: 
 Vital Signs: 98.1 142/88 69 18 99RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: RRR no murmurs  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength on R side, ___ strength 
on L side; has difficulty with finger-to-nose with L hand as 
well as rapid alternating movements; gait normal  

DISCHARGE EXAM:
VITALS: Tm 98.1  BP 157/97  HR 95  RR 18  O2 99% RA  
GENERAL: Alert, oriented, no acute distress  
HEENT: MMM, EOMI, PERRL 
HEART: RRR no m/r/g
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
ABDOMEN: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding    
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNII-XII intact, ___ strength on R side, ___ strength 
on L side; has difficulty with finger-to-nose with L hand as 
well as rapid alternating movements; gait normal  
 
Pertinent Results:
ADMISSION LABS:
___ 06:00PM   ___ PTT-24.7* ___
___ 06:41PM   GLUCOSE-108* UREA N-16 CREAT-1.0 SODIUM-136 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-20* ANION GAP-20
___ 06:41PM   ALT(SGPT)-18 AST(SGOT)-30 CK(CPK)-266 ALK 
PHOS-52 TOT BILI-0.4
___ 06:41PM   WBC-7.1 RBC-5.39 HGB-14.8 HCT-45.9 MCV-85 
MCH-27.5 MCHC-32.2 RDW-14.0 RDWSD-43.1
___ 07:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:41PM   CK-MB-3 cTropnT-<0.01

PERTINENT LABS:
- Cardiac enzymes negative

DISCHARGE LABS:
___ 08:20AM BLOOD WBC-7.5 RBC-5.78 Hgb-15.9 Hct-49.5 MCV-86 
MCH-27.5 MCHC-32.1 RDW-14.6 RDWSD-44.4 Plt ___
___ 08:20AM BLOOD ___ PTT-33.2 ___
___ 08:20AM BLOOD Glucose-108* UreaN-16 Creat-1.0 Na-140 
K-4.3 Cl-103 HCO3-24 AnGap-17
___ 08:20AM BLOOD Calcium-9.7 Phos-3.1 Mg-2.3

MICRO:
None.

IMAGING/STUDIES:
- ECG unremarkable

- ___ CT HEAD W/O CONTRAST
There is no evidence of large territorial infarction, 
hemorrhage, edema, or
large mass.  The ventricles and sulci are normal in size and 
configuration. 
There is prominence of the ventricles and sulci, secondary to 
age-related
volume loss.  There is no evidence of fracture.  The visualized 
portion of the
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  The
visualized portion of the orbits are unremarkable.

- ___ CXR
No acute intrapulmonary process

- ___ MR HEAD W/O CONTRAST
1. No acute intracranial abnormality including acute infarct, 
hemorrhage, or
suggestion of mass.
2. Chronic left cerebellar infarct.
3. Stable white matter signal abnormalities in a configuration 
suggestive of
chronic small vessel ischemic disease.
4. Unchanged focus of magnetic susceptibility in the left 
parietal subcortical
white matter, suggesting chronic micro hemorrhage.
   
- ___ CTA HEAD & CTA NECK
1. No acute intracranial abnormality.
2. White matter hypodensities in a configuration suggestive of 
chronic small
vessel ischemic disease.
3. Patent intracranial vasculature without significant stenosis, 
occlusion or
aneurysm.
4. Patent cervical vasculature without significant stenosis, 
occlusion or
dissection.
5. 5 mm right upper lobe pulmonary nodule.

 
Brief Hospital Course:
___ is a ___ year old male with a history of seizures 
who presented with a multitude of symptoms  including left chest 
tightness, left arm pain & weakness, as well as visual auras, 
which were concerning for cardiac vs. neurological in origin. 
Cardiac work up (ECG, enzymes) was negative. For weakness a code 
stroke was initially called, however, CTA head/neck revealed no 
acute abnormalities and patent intracranial/cervical 
vasculature. Neurology team did not feel that his symptoms were 
related to seizure. Discussion with outpatient providers also 
revealed that the patient has a history of vague neurological 
symptoms with negative work-up in the past. MRI brain did not 
reveal any recent ischemic CVA, however, it did show old left 
cerebellar infarct, which corresponded to left-sided 
finger-to-nose deficits seen on exam. He was given 
aspirin/atorvastatin for secondary prevention. His arm 
pain/weakness, felt to be secondary to cervical radiculopathy 
from degenerative disc disease/osteoarthritis. Lastly chest pain 
felt to be atypical for cardiac chest pain and serial 
EKGs/troponins x2 were negative. 

ACTIVE PROBLEMS:

#L ARM/CHEST/NECK PAIN & WEAKNESS:  
Likely related from two separate processes after work up. Pain 
appears to be radicular after seeing in OMR that the patient has 
a history of degenerative disc disease. On both CT Head and MRI 
Head chronic micro-vascular ischemic changes were noted, likely 
explaining his weakness and cerebellar lack of coordination.  
- Checked ECG + serial troponin which were negative.  
- Gave ASA (to continue outpatient) + atorvastatin  
- Initially was on heparin drip which was stopped once the 
patient's ECG looked normal
 
#H/O SEIZURES:  
On Keppra 500 QD. No seizures in house. Likely not the cause of 
his presenting symptoms given that they are more appropriately 
explained by radiculopathy & the ischemic changes noted on brain 
imaging. 
- Continued home Keppra

CHRONIC/STABLE PROBLEMS:

#HTN: Continued amlodipdine  
#HLD: Continued atorvastatin per above  
#Pre-diabetes: A1C 6.1 ___. No meds needed.  
#BPH: Continued finasteride  

TRANSITIONAL ISSUES:
- NEW MEDS: ASA 81 mg/atorvastatin 80 mg
- If chest pain continues, consider outpatient stress test given 
risk factors
- CTA revealed 5 mm right upper lobe pulmonary nodule. 
RECOMMENDATION(S): The ___ guidelines for 
pulmonary nodule guidelines suggest for pulmonary nodules 
greater than 4 mm or less than 6mm, 12 month follow-up in 
low-risk patients, and ___ month follow-up in high risk 
patients. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. LevETIRAcetam 500 mg PO QAM 
3. Zolpidem Tartrate 5 mg PO QHS 
4. amLODIPine 5 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Finasteride 5 mg PO DAILY  
6.  LevETIRAcetam 500 mg PO QAM  
7.  Multivitamins 1 TAB PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  
9.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: cervical radiculopathy, ischemic cerebellar 
stroke (old, diagnosed on imaging), seizure disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

Why you were here:
-You had left arm pain, chest pain, and also symptoms that were 
concerning to you for possible seizure

What happened while you were here:
-MRI of your head showed no new abnormality to explain your 
symptoms. It did show that you have an old stroke. We started 
you on aspirin and a medication called atorvastatin to reduce 
the risk of another stroke. 
-Neurology evaluated you and did not believe your symptoms were 
from a seizure
-We believe your arm pain/weakness is from your degenerative 
disc disease in your neck
-Lastly, we checked your cardiac enzymes and electrocardiograms 
and these showed no obvious damage to your heart

What to do next:
-Follow-up at the appointments listed below
-Take your aspirin, atorvastatin, and keppra every day

We wish you all the best,
Your ___ team
 
Followup Instructions:
___